US05171810
1-Phenyl-1-silacyclopent-3-ene
In a 500 mL two neck rb flask equipped with a reflux condenser, a Teflon covered magnetic stirring bar and a rubber septum was placed magnesium powder (9.6 g, 0.4 mol), phenyldichlorosilane (35.4 g, 0.2 mol) and THF (300 mL). The reflux condenser was connected to a refrigeration unit. Ethylene glycol cooled to -20° C. was circulated through the reflux condenser. 1,3-Butadiene (15.1 g, 0.28 mol) was condensed at -78° C. into a volumetric flask which was sealed with a rubber septum. The 1,3-butadiene was transferred into the reaction via a cannula. The reaction mixture was stirred at rt for 24 h. Ether (2×100 mL) was added. The organic solution was decanted from the magnesium chloride salts. There were transferred to a sintered glass funnel and were washed with ether (100 mL). The combined organic solution was washed with water (2×50 mL), dried over anhydrous magnesium sulfate, filtered and the volatile solvents removed by evaporation under reduced pressure. The residue was purified by distillation through a 10 cm vacuum jacketed Vigreux column. A fraction, bp 87° C./5 mm, 6.0 g, 19% yield, was collected.

reactant | magnesium | 0.4 mol, 9.6 g | [Mg] | Mg
reactant | phenyldichlorosilane | 0.2 mol, 35.4 g | C1(=CC=CC=C1)[SiH](Cl)Cl | C6H6Cl2Si
reactant | THF | 300 mL | C1CCOC1 | C4H8O
reactant | 1,3-Butadiene | 0.28 mol, 15.1 g | C=CC=C | C4H6
solvent | Ether | 100 mL | CCOCC | C4H10O
solvent | Ethylene glycol | C(CO)O | C2H6O2
product | 1-Phenyl-1-silacyclopent-3-ene | 19% yield | C1(=CC=CC=C1)[SiH]1CC=CC1 | C10H12Si
